US07799922B2
h.) 4-Methoxy-N-(6-dimethylamino-4-benzalamino-3-cyanoquinolin-2-yl)benzamide
To the solution of 2.3 g of 4-methoxy-N-(4-methoxybenzoyl)-N-(6-dimethylamino-4-benzylamino-3-cyanoquinolin-2-yl)benzamide in 20 mL of acetonitrile, 5 mL of 1N methanolic potassium hydroxide solution is added. The reaction mixture is heated under reflux conditions for 10 minutes, 1.5 mL of glacial acetic acid is added to it, then it is neutralized with 15 mL of 1M sodium hydrogen carbonate solution. The precipitate is filtered off, the yellow crystalline material is recrystallized from the mixture of 5 ml of dimethylformamide and 40 mL of ethanol. After drying 1.3 g of the title compound is obtained, m.p.: 185° C.

reactant | 4-methoxy-N-(4-methoxybenzoyl)-N-(6-dimethylamino-4-benzylamino-3-cyanoquinolin-2-yl)benzamide | 2.3 g | COC1=CC=C(C(=O)N(C2=NC3=CC=C(C=C3C(=C2C#N)NCC2=CC=CC=C2)N(C)C)C(C2=CC=C(C=C2)OC)=O)C=C1 | C35H31N5O4
reactant | acetic acid | 1.5 mL | C(C)(=O)O | C2H4O2
reactant | sodium hydrogen carbonate | 1M, 15 mL | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | potassium hydroxide | 1N, 5 mL | [OH-].[K+]
product | 4-Methoxy-N-(6-dimethylamino-4-benzalamino-3-cyanoquinolin-2-yl)benzamide | COC1=CC=C(C(=O)NC2=NC3=CC=C(C=C3C(=C2C#N)N=CC2=CC=CC=C2)N(C)C)C=C1 | C27H23N5O2
